US04349552
The reaction of 5-(1,2-dithiolan-3-yl)pentanoic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 4-(1,2-dithiolan-3-yl)butyl isocyanate (I.R.: 2270 cm-1), which was reacted with 5-fluorouracil to provide 1-[N-[4-(1,2-dithiolan-3-yl)butyl]carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 13.

reactant | 5-(1,2-dithiolan-3-yl)pentanoic acid | S1SC(CC1)CCCCC(=O)O | C8H14O2S2
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(1,2-dithiolan-3-yl)butyl isocyanate | S1SC(CC1)CCCCN=C=O | C8H13NOS2
